* C:\IIT_KGP_IC_Design\Folded_Cascode\Folded_Cascode.asc
* Generated by LTspice 24.1.8 for Windows.
M2 N002 N003 0 0 n_65 l=200n w=10u
M1 N002 vin vdd vdd p_65 l=200n w=10u
V1 vdd 0 1.2
V2 vin 0 SINE(850m 10m 100k)
M3 N003 N003 0 0 n_65 l=200n w=10u
I1 vdd N003 5µ
M4 vout N001 N002 0 n_65 l=200n w=5u
M5 N004 N003 0 0 n_65 l=200n w=5u
M6 N001 N001 N004 0 n_65 l=200n w=5u
R1 vdd vout 200k
R2 vdd N001 200k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\srija\AppData\Local\LTspice\lib\cmp\standard.mos
.include 65nm_bulk.mos
.tran 100u
.backanno
.end
